US04139617
A tetrahydrofuran solution of 19-trimethylsiloxy-5-androstene-3,17-dione is added to lithium aluminum hydride in tetrahydrofuran and the resultant solution stirred overnight at room temperature. An aqueous solution of sodium potassium tartrate is added with stirring until a readily filterable precipitate forms. The filtrate is concentrated under reduced pressure and diluted with ether. The resulting solution is washed with water, dried over magnesium sulfate, and the ether removed under vacuum. The residual 19-trimethylsiloxy-5-androstene-3β,17β-diol so obtained is recrystallized from an acetone-hexane solution.

reactant | 19-trimethylsiloxy-5-androstene-3,17-dione | C[Si](OC[C@]12CCC(CC1=CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O)(C)C | C22H34O3Si
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 19-trimethylsiloxy-5-androstene-3β,17β-diol | C[Si](OC[C@]12CC[C@@H](CC1=CC[C@H]1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)O)O)(C)C | C22H38O3Si
